US08669361B2
A solution of N-(5,5-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide (0.29 g, 0.78 mmol) in MeOH (20 mL) was passed through the H-Cube® (Full H2 Mode, 70° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to give the crude amine. To a solution of this amine (0.26 g, 0.78 mmol) in DCM (15 mL) was added DIPEA (0.68 mL, 3.9 mmol), PyBOP (0.61 g, 1.17 mmol) and 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (0.30 g, 0.86 mmol) and the mixture was stirred at room temperature for 18 hr. The mixture was diluted with DCM and washed with water. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-80% EtOAc/isohexane) gave tert-butyl 4-(5-(4,4-difluoro-5-(2,2,2-trifluoroacetamido)-azepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(2,6-difluorophenyl)thiazol-5-ylcarbamate as a white solid (0.37 g, 69%). 1H NMR (400 MHz, CDCl3) δ 10.28 (s, 1H), 8.71 (s, 1H), 7.82 (s, 1H), 7.42-7.33 (m, 1H), 7.11-7.01 (m, 2H), 6.72 (d, J=9.0 Hz, 1H), 4.73-4.57 (m, 1H), 3.77 (s, 3H), 3.51-3.37 (m, 2H), 3.36-3.25 (m, 2H), 2.49-2.36 (m, 2H), 2.25-2.03 (m, 2H), 1.55 (s, 9H).

reactant | N-(5,5-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | 0.78 mmol, 0.29 g | FC1(C(CCN(CC1)C1=C(C=NN1C)[N+](=O)[O-])NC(C(F)(F)F)=O)F | C12H14F5N5O3
reactant | DIPEA | 3.9 mmol, 0.68 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 1.17 mmol, 0.61 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 0.86 mmol, 0.30 g | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
solvent | MeOH | 20 mL | CO | CH4O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-(5-(4,4-difluoro-5-(2,2,2-trifluoroacetamido)-azepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(2,6-difluorophenyl)thiazol-5-ylcarbamate | 0.37 g, 69% | FC1(CCN(CCC1NC(C(F)(F)F)=O)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)C1=C(C=CC=C1F)F)F | C27H28F7N7O4S
